US04206219
In words relative to the above diagram for the preparation of 1, the 4-(1-methyl-2-acetoxyvinyl)acetidinone-2-one (3') is prepared by reacting chlorosulphonyl isocyanate and an acyloxybutadiene (1') such as 1-acetoxy-2-methylbutadiene in a solvent such as anhydrous diethyl ether at a temperature of from about -30° C. to 0° C. under a nitrogen atmosphere. The reaction intermediate 2' is converted to 3' by hydrolysis. The reduction of 3' to provide the 4-(1-methyl-2-acetoxyethyl)-2-azetidinone (4') is conducted by any convenient means such as hydrogenation in the presence of a catalyst such as platinum, palladium or oxides thereof under a hydrogen pressure of from 1 to 20 atmospheres in a solvent such as ethanol, ethylacetate, or the like, at a temperature of from 0° to 25° C. for from 5 minutes to 1 hour. The 4-(2-hydroxy-1-methyl-ethyl)-2-azetidinone species 5' is obtained from 4' by hydrolysis. The 8-oxo-2,2-dimethyl-5-methyl-3-oxa-1-azabicyclo[4.2.0]octane species 6' is obtained on treatment of 5' with 2,2-dimethoxypropane in the presence of a catalyst such as boron trifluoride etherate in a solvent such as methylene chloride at a temperature of from 0° to 40° C. for from 1 to 40 minutes. Alternatively, 5' can be treated with boron trifluoride etherate and trimethylorthoformate to give 8-oxo-2-methoxy-5-methyl-3-oxa-1-azabicyclo[4.2.0]octane which can be mono- or dialkylated following the procedures for 6'→7' or 8'. Alkylation of 6' provides 7'. Typically, 6' is treated with a strong base such as lithium diisopropylamide, sodium hydride, phenyl lithium or butyl lithium and the like in a solvent such as tetrahydrofuran (THF), ether, dimethoxyethane and the like at a temperature of from -80° C. to 0° C., whereupon the alkylating agent of choice, R1X is added (R1 is as described above and X is chloro or bromo; alternatively the alkylating agent may be R1 -tosylate, R1 -mesylate or an aldehyde or ketone such as acetaldehyde and the like) to provide mono- alkylated species 7'. When desired dialkylated species 8' may be obtained from 7' by repeating the alkylating procedure, 6'→7'. Species 9' is obtained from 7' or 8' by acid hydrolysis.

reactant | chlorosulphonyl isocyanate | ClS(=O)(=O)N=C=O | CClNO3S
reactant | 1-acetoxy-2-methylbutadiene | C(C)(=O)OC=C(C=C)C | C7H10O2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 4-(1-methyl-2-acetoxyethyl)-2-azetidinone | CC(COC(C)=O)C1CC(N1)=O | C8H13NO3
